US07598377B2
8-(1-hydroxyethyl)-2-(4-pyridinyl)-6-methyl-4H-1-benzopyran-4-one
A mixture of 8-acetyl-6-methyl-2-(4-pyridinyl)-4H-1-benzopyran-4-one (4.6 g, 16.5 mmol) in methanol (100 ml) was treated with sodium borohydride (1.22 g, 33 mmol) and heated to reflux overnight. Upon cooling water (2 ml) was added and the solution concentrated to near-dryness in vacuo. Water (100 ml) was added and a precipitate formed which was filtered yielding a tan/orange solid (4.0 g).

reactant | 8-acetyl-6-methyl-2-(4-pyridinyl)-4H-1-benzopyran-4-one | 16.5 mmol, 4.6 g | C(C)(=O)C1=CC(=CC=2C(C=C(OC21)C2=CC=NC=C2)=O)C | C17H13NO3
reactant | sodium borohydride | 33 mmol, 1.22 g | [BH4-].[Na+]
reactant | water | 2 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 8-(1-hydroxyethyl)-2-(4-pyridinyl)-6-methyl-4H-1-benzopyran-4-one | 4.0 g | OC(C)C1=CC(=CC=2C(C=C(OC21)C2=CC=NC=C2)=O)C | C17H15NO3
